US08293768B2
Synthesis of 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methyl-N-((1-methyl-1H-imidazol-5-yl)methyl)thiophene-2-carboxamide
Following the procedures as described in Example 55, making variations as required to replace 3-methyl-5-(2-oxo-3-(2-phenoxyethyl)imidazolidin-1-yl)thiophene-2-carboxylic acid with 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylic acid to react with (1-methyl-1H-imidazol-5-yl)methanamine, the title compound was obtained as a colorless solid in 75% yield: 1H NMR (300 MHz, CDCl3) δ 7.48 (s, 1H), 7.30-7.22 (m, 2H), 7.08-6.98 (m, 3H), 6.08 (s, 1H), 5.86 (t, J=5.0 Hz, 1H), 4.59 (d, J=5.0 Hz, 2H), 4.42 (s, 2H), 3.84-3.75 (m, 2H), 3.65 (s, 3H), 3.49-3.40 (m, 2H), 2.48 (s, 3H); MS (ES+) m/z 428.2 (M+1).

reactant | 3-methyl-5-(2-oxo-3-(2-phenoxyethyl)imidazolidin-1-yl)thiophene-2-carboxylic acid | CC1=C(SC(=C1)N1C(N(CC1)CCOC1=CC=CC=C1)=O)C(=O)O | C17H18N2O4S
reactant | 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylic acid | FC1=CC=C(CN2C(N(CC2)C2=CC(=C(S2)C(=O)O)C)=O)C=C1 | C16H15FN2O3S
reactant | (1-methyl-1H-imidazol-5-yl)methanamine | CN1C=NC=C1CN | C5H9N3
product | 5-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-3-methyl-N-((1-methyl-1H-imidazol-5-yl)methyl)thiophene-2-carboxamide | 75% yield | FC1=CC=C(CN2C(N(CC2)C2=CC(=C(S2)C(=O)NCC2=CN=CN2C)C)=O)C=C1 | C21H22FN5O2S
